US05266556
To a solution of ethyl 1-(2,6-dichloro-4-trifluoromethylphenyl)indazol-6-yl carboxylate [Compound No. 62] (3 g) in conc. sulfuric acid (20 g), fuming nitric acid (0.7 g) was added dropwise while cooling with ice, and the resultant mixture was stirred at room temperature for 3 hours. After completion of the reaction, the reaction mixture was poured into ice water, and the precipitated crystals were collected by filtration, washed and dried. The crystals were purified by silica gel column chromatography with hexane-ethyl acetate (4:1) to give ethyl 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-nitroindazol-6-yl carboxylate (2.1 g).

reactant | ethyl 1-(2,6-dichloro-4-trifluoromethylphenyl)indazol-6-yl carboxylate | 3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC2=CC=C(C=C12)C(=O)OCC | C17H11Cl2F3N2O2
reactant | nitric acid | 0.7 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
product | ethyl 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-nitroindazol-6-yl carboxylate | 2.1 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC2=CC(=C(C=C12)C(=O)OCC)[N+](=O)[O-] | C17H10Cl2F3N3O4
